US09217222B2
2.2. Synthesis of Phenacylthiazolium Chloride
15.46 g (0.10 mol) of 2-chloroacetophenone was weighed out and dissolved in 60 ml ethyl acetate. The clear solution was heated to 75° C. and 4.4 ml (0.0624 mmol) thiazole was added drop wise with stirring. The resulting clear solution was then stirred under reflux for 3.5 hours and then allowed to stand under a nitrogen atmosphere for one day; the resulting suspension was filtered off under suction and dried in a high vacuum. Yield: 1.94 g (13%).

reactant | 2-chloroacetophenone | 0.10 mol, 15.46 g | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | thiazole | 0.0624 mmol, 4.4 ml | S1C=NC=C1 | C3H3NS
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | Phenacylthiazolium Chloride | [Cl-].C(C(=O)C1=CC=CC=C1)C=1SC=C[NH+]1 | InChI=1S/C11H9NOS.ClH/c13-10(8-11-12-6-7-14-11)9-4-2-1-3-5-9;/h1-7H,8H2;1H
